US06756366B1
—Pyridinium p-toluenesulfonate (1.65 g) was added to a solution of (11β)-11-methylestr-4-ene-3,17-dione [van den Broek, A. J. et al, Steroids 30, 481 (1977); 16.86 g] in a mixture of ethanol (110 ml), dioxane (220 ml) and triethyl orthoformate (35.0 ml). After 4 h stirring at room temperature pyridine was added and the reaction mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate. The product was extracted into ethyl acetate; the combined organic phases were washed with water and brine, dried over magnesium sulfate and concentrated under reduced pressure, to give (11β)-3-ethoxy-11-methylestra-3,5-dien-17-one (21.84 g). The product was used in the following step without further purification.

reactant | (11β)-11-methylestr-4-ene-3,17-dione | C[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C19H26O2
reactant | dioxane | 220 ml | O1CCOCC1 | C4H8O2
reactant | triethyl orthoformate | 35.0 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 110 ml | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (11β)-3-ethoxy-11-methylestra-3,5-dien-17-one | 21.84 g | C(C)OC1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)C[C@@H]([C@@H]3[C@H]2CC1)C)=O | C21H30O2
